US07829665B2
(S)-3-aminodihydrofuran-2(3H)-one hydrochloride (10.30 g, 74.87 mmol) in 58 mL of 30% w/w HBr in HOAc was stirred at 65° C. for 30 hrs. The solvent was removed under reduced pressure and the resulted solid was suspended in MTBE (200 mL) and stirred for 30 min. The solid was collected by filtration and washed with MTBE (200 mL) and dried to give (S)-2-amino-4-bromobutanoic acid hydrobromide as white solid (19.33 g, 98%). 1H NMR (400 MHz, d6-DMSO) δ8.37 (s, 3H), 4.01 (m, 1H), 3.65 (m, 2H), 2.33 (m, 2H).

reactant | (S)-3-aminodihydrofuran-2(3H)-one hydrochloride | 74.87 mmol, 10.30 g | Cl.N[C@@H]1C(OCC1)=O
reactant | HBr | Br | BrH
solvent | HOAc | CC(=O)O | C2H4O2
product | (S)-2-amino-4-bromobutanoic acid hydrobromide | 19.33 g, 98% | Br.N[C@H](C(=O)O)CCBr | InChI=1S/C4H8BrNO2.BrH/c5-2-1-3(6)4(7)8;/h3H,1-2,6H2,(H,7,8);1H/t3-;/m0./s1
